Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
alprazolam / Benzodiazepines
 
Attending: ___.
 
Chief Complaint:
Fall with left shoulder injury
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo female with PMH signifcant for HTN, COPD, 
Diabetes, active tobacco use who is being transferred from ___. 
___ for concern of a possible fracture/dislocation 
involving the left humeral head. She had apparently gotten out 
of bed in the middle of the night while taking Ambien to go get 
a drink. She initially felt fine but partway to the bathroom 
became lightheaded and fell. She denies any LOC or head strike. 
She has had intermittent palpitations for several years and has 
worn a Holter in the past without any confirmed diagnosis that 
she is aware of. She did think she had some palpitations around 
the time of the fall.  
 
- In the ED, initial vitals were: 6 97.4 92 116/66 16 95% 2L.  
- Labs significant for WBC 19.0 with 88% neutrophils and glucose 
of 251. Normal LFT's, trop, lipase, and electrolytes.  
- UA with 8 WBC and small leuk esterase. Urine culture pending.  

- She had a CT head and C-spine which showed no acute 
abnormalities.  
- She had a CT of her left upper extremity which showed a 
comminuted and displaced proximal left humerus fracture and two 
4mm nodules along the periphery of the left upper lobe.  
- The patient was seen by Orthopedic surgery who recommended use 
of a sling and non weight bearing status with follow up in ___ 
clinic at one week.  
 
- The patient subsequently had an episode of tachycardia to the 
170s and was lightheaded and hypotensive with EP impression of 
AVNRT  
- She received Fentanyl 50mcg and was cardioverted with 150J. 
She then received Fleicanide 100mg and was started on verapamil 
40mg q6h.  
- Post conversion, she remained hemodynamically stable.  
Prior to transfer, VS: 98 79 111/55 18 98% NC  
On the floor, patient reports significant pain in her L 
shoulder/arm. Denies active CP or SOB.  
She does endorse DOE, orthopnea, and PND at her baseline.  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Past Medical History:
-IDDM  
-COPD  
-Depression  
-HLD  
-Breast cancer  
-___ esophagus
 
Social History:
___
Family History:
pt in pain and not up for discussing family history  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
General: elderly woman lying in bed in significant pain at left 
shoulder/arm  
HEENT: anicteric sclerae. MM moist and pink.  
Neck: supple. difficult to establish JVP due to habitus  
CV: normal rate, reg rhythm. significant III/VI SEM loudest at 
RUSB  
Lungs: expiratory wheezes bilaterally. limited exam otherwise 
due to inability to position patient amidst her pain  
Abdomen: soft, NT, ND, NABS  
GU: foley in place  
Ext: 1+ pitting edema in b/l ___  
Neuro: CN II-XII intact. not moving L arm due to pain. otherwise 
moving all extremities symmetrically  
PULSES: full pedal pulses  

DISCHARGE PHYSICAL EXAM:
VS: T 98.4 (99.0) BP 174/87 (120/51-174/87) HR 92 (74-92) RR 20 
O2 98%RA Wt: 81.5kg
General: elderly woman lying in bed in significant pain at left 
shoulder/arm
Neck: No JVD
CV: normal rate, reg rhythm. significant II/VI SEM loudest at 
___
Lungs: expiratory wheezes. limited exam otherwise due to 
inability to position patient amidst her pain
Abdomen: soft, NT, ND, NABS
Ext: trace pitting edema in b/l ___
Neuro: CN II-XII intact. not moving L arm due to pain. otherwise 
moving all extremities symmetrically
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:30AM BLOOD WBC-19.0* RBC-4.77 Hgb-14.4 Hct-42.5 
MCV-89 MCH-30.2 MCHC-34.0 RDW-13.5 Plt ___
___ 09:30AM BLOOD Neuts-88.4* Lymphs-6.5* Monos-3.8 Eos-1.0 
Baso-0.3
___ 09:30AM BLOOD ___ PTT-31.3 ___
___ 09:30AM BLOOD Glucose-251* UreaN-16 Creat-0.7 Na-135 
K-4.2 Cl-100 HCO3-21* AnGap-18
___ 09:30AM BLOOD ALT-18 AST-17 AlkPhos-84 TotBili-0.6
___ 09:30AM BLOOD Lipase-23
___ 09:30AM BLOOD cTropnT-<0.01
___ 09:30AM BLOOD CK-MB-1 proBNP-394
___ 09:30AM BLOOD Albumin-4.0 Calcium-9.1 Phos-4.9* Mg-1.8
___ 11:54AM URINE Color-Y Appear-Hazy Sp ___
___ 11:54AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-SM 
___ 11:54AM URINE RBC-1 WBC-8* Bacteri-FEW Yeast-NONE Epi-2
___ 11:54AM URINE CastHy-13*
___ 11:54AM URINE Mucous-MANY

PERTINENT LABS
==============
___ 06:35AM BLOOD TSH-1.3

DISCHARGE LABS
==============
___ 07:00AM BLOOD WBC-9.0 RBC-3.64* Hgb-11.7* Hct-32.8* 
MCV-90 MCH-32.2* MCHC-35.7* RDW-13.1 Plt ___
___ 07:00AM BLOOD Glucose-127* UreaN-11 Creat-0.5 Na-136 
K-3.6 Cl-98 HCO3-25 AnGap-17
___ 07:00AM BLOOD Calcium-8.7 Phos-2.6* Mg-1.8

MICROBIOLOGY
============
___ 11:54 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

RADIOLOGY
=========
___ 9:52 AM CT HEAD W/O CONTRAST 
FINDINGS:  
There is no evidence of infarction, hemorrhage, edema, or mass. 
The ventricles and sulci are normal in size and configuration. 
No osseous abnormalities seen. There is mucosal thickening of 
the left maxillary sinus with aerosolized secretions and mucosal 
thickening of the ethmoid air cells. The remainder of the 
paranasal sinuses, mastoid air cells and middle ear cavities are 
clear. The orbits are unremarkable. 
IMPRESSION: 
1. No acute intracranial process. 
2. Mucosal thickening and secretions within the left maxillary 
sinus. 

___ 9:___-SPINE W/O CONTRAST 
FINDINGS:  
Alignment is normal.  No fractures are identified.  There is no 
evidence of spinal canal or neural foraminal narrowing.  There 
are mild multilevel degenerative changes with disc space 
narrowing at C5-C6 and small osteophytes. 
The right lobe of the thyroid is enlarged and heterogeneous with 
a small calcification in the lower pole. The left lobe of the 
thyroid is not visualized. Calcifications of the carotid 
bifurcations are present bilaterally. There is scarring at the 
right lung apex. 
IMPRESSION: 
1. No evidence of fracture or malalignment. 
2. Enlarged heterogeneous right lobe of the thyroid which can be 
evaluated with nonemergent ultrasound if not already completed. 

___ 10:10 AM ELBOW (AP, LAT & OBLIQUE) LEFT; GLENO-HUMERAL 
SHOULDER
FINDINGS:  
Shoulder: There is a comminuted proximal humeral fracture. There 
is a fracture of the surgical neck with medial displacement of 
the dominant distal component, and mild impaction. The dominant 
distal component is also mildly posteriorly angulated. Minimally 
displaced fracture extending through the greater tuberosity is 
also present. There is slight inferior subluxation of the 
humeral head but no dislocation. 
Elbow:  Somewhat limited projections, but allowing for this 
there is no evidence of acute fracture or dislocation. There is 
no soft tissue calcification or radiopaque foreign body. 
IMPRESSION: 
1. Comminuted proximal humeral fracture. 

___ 11:02 AM CT UP EXT W/O C   
FINDINGS:  
There is a comminuted fracture of the left proximal humerus at 
the surgical neck.  The humeral shaft is displaced anteriorly by 
approximately 18 mm (405b:83).  There is comminution of the 
greater tuberosity with mild displacement. Fat stranding and 
heterogeneity in the adjacent soft tissues is likely related to 
hemorrhage. No large hematoma is present. The acromioclavicular 
joint is intact and shows mild degenerative changes. 
Limited view of the left chest is notable for aortic 
calcifications and scarring at the left lung apex.  There are 
two 4 mm nodule along the periphery of the left upper lobe 
(3:59,46). 
IMPRESSION:  
1. Comminuted and displaced proximal left humerus fracture as 
described above. 
2.  Two 4 mm nodules along the periphery of the left upper lobe. 
According to the ___ criteria, in a low risk patient, no 
followup is indicated.  However, if the patient has a history of 
smoking or other risk factors, followup chest CT is recommended 
in one year. 

___ 11:24 ___ WRIST PA & LAT VIEWS LEFT 
FINDINGS:  
2 views of the left wrist demonstrate no fracture or 
dislocation.  There are moderate degenerative changes of the 
first CMC and triscaphe joints. No soft tissue calcification or 
radiopaque foreign body is seen.  Mild 
demineralization is noted.   
IMPRESSION:    
No acute fracture or dislocation. If there is high clinical 
suspicion for occult scaphoid fracture, dedicated scaphoid views 
or MRI could be obtained. 

 
Brief Hospital Course:
SUMMARY: ___ with HTN, COPD, IDDM, and active tobacco use who is 
being transferred from ___ for comminuted 
fracture with subsequent development of unstable AVNRT, 
initially in sinus s/p cardioversion but converted to afib ___ 
briefly before reverting to sinus ___ AM. Currently in sinus 
rhythm, hemodynamically stable.

ACTIVE ISSUES:

# Left Proximal Humerus Fracture
Dr. ___ from ___ evaluated patient in ED 
and believed fracture was not displaced as had been suggested on 
prior CT. Conservative management was taken with sling and 
nonweight bearing in left arm. She will follow up in Orthopedics 
Clinic.

# Atrioventricular Nodal Reentrant Tachycardia
Dr. ___ from ___ evaluated patient in ED 
and thought she had AVNRT. She was cardioverted in ED with 
restoration of sinus rhythm. She was maintained on verapamil, 
which was uptitrated to 240 mg extended release daily at the 
time of discharge. Her home atenolol was discontinued.

# Atrial Fibrillation
She developed afib briefly overnight on ___ before returning to 
sinus rhythm. Her CHDS2 is 3 (+HAD). Anticoagulation with 
coumadin was deferred given her frequent falls at home. Home 
aspirin was increased to 325mg daily. She remained in sinus 
rhythm for the rest of her hospitalization and maintained on 
verapamil XL 240mg. Her TSH was normal. TTE which was suboptimal 
did not show any major structural defects.

# Urinary Tract Infection
She had urinary frequency with pyuria and bacteriuria on UA. 
Culture showed ceftriaxone sensitive E. coli. She completed 3 
doses of ceftriaxone.

CHRONIC ISSUES:

# COPD: Stable. Continued home regimen and Duonebs while 
inpatient.
# Diabetes: Held home glyburide. Received lispro insulin sliding 
scale and glargine.
# Depression: Continued home citalopram.
# Breat Cancer: Continued home anastrazole.  
# ___: Continued home omeprazole.  

TRANSITIONAL ISSUES:
- Follow up with Orthopedics
- Follow up with Cardiology/Electrophysiology
- Trend WBC for 2 days after discharge to see if it is stable, 
had a small drop likely due to a hematoma from her L proximal 
humerus fracture
- On CT Upper Extremity: Two 4 mm nodules along the periphery of 
the left upper lobe. According to the ___ criteria, in a 
low risk patient, no followup is indicated. However, if the 
patient has a history of smoking or other risk factors, followup 
chest CT is recommended in one year. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO BID 
2. Pravastatin 40 mg PO QPM 
3. Zolpidem Tartrate 10 mg PO QHS:PRN sleep 
4. anastrozole 1 mg oral DAILY 
5. Aspirin 81 mg PO DAILY 
6. Atenolol 25 mg PO DAILY 
7. Citalopram 40 mg PO QHS 
8. GlyBURIDE 2.5 mg PO DAILY 
9. Glargine 40 Units Bedtime
10. Cyanocobalamin 1000 mcg IM/SC QMONTH 
11. Vitamin D 4000 UNIT PO DAILY 
12. Calcium Carbonate 1200 mg PO DAILY 
13. Tizanidine 4 mg PO QHS:PRN sleep 
14. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
15. Albuterol Inhaler Dose is Unknown  IH Frequency is Unknown 

 
Discharge Medications:
1. anastrozole 1 mg oral DAILY 
2. Citalopram 40 mg PO QHS 
3. Glargine 40 Units Bedtime
4. Omeprazole 20 mg PO BID 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
6. Calcium Carbonate 1200 mg PO DAILY 
7. Cyanocobalamin 1000 mcg IM/SC QMONTH 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
9. GlyBURIDE 2.5 mg PO DAILY 
10. Pravastatin 40 mg PO QPM 
11. Tizanidine 4 mg PO QHS:PRN sleep 
12. Vitamin D 4000 UNIT PO DAILY 
13. Zolpidem Tartrate 10 mg PO QHS:PRN sleep 
14. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
Do not take with tizanidine or Ambien at night. Do not drink or 
drive while on this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0
15. Verapamil SR 240 mg PO Q24H 
16. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Left Proximal Humerous Fracture
Atrioventricular Nodal Reentrant Tachycardia
Atrial Fibrillation
Urinary Tract Infection

SECONDARY:
Chronic Obstructive Pulmonary Disease
Insulin Dependent Type 2 Diabetes Mellitus
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were sent to the ___ ED from ___ after ___ 
had a fall at home. Unfortunately, we found that ___ fractured 
the upper part of your left arm. ___ will need to be in a sling 
for the time being and follow up with the ___.

While ___ were in the ED, your heart went into an abnormal 
rhythm resulting in very rapid heart rate. We had to 
electrically shock your heart to get it back to a normal rhythm. 
We are starting ___ on a new medication, verapamil, to control 
your heart rate. ___ briefly went into another abnormal rhythm 
called atrial fibrillation, which resolved. However, this rhythm 
is likely to recur and increase your risk of stroke; we are 
increasing your aspirin dose to 325mg to help prevent this 
complication. ___ will need follow up with a cardiologist here.

Last, we found that ___ had signs of a urinary tract infection, 
for which we treated ___ with a short course of antibiotics.

Please take your medications as directed in the discharge 
worksheet and follow all of your appointment instructions. It 
was a pleasure to take care of ___. We wish ___ the best!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___